US07834190B2
Production of ethyl (4S,5S)-2-methyl-4-propyl-4,5-dihydro-1,3-oxazole-5-carboxylate
Acetonitrile (5 ml) was added to ethyl (2S,3R)-3-propyl-2-oxiranecarboxylate (0.8 g, 5 mmol). The mixture was cooled to 5° C., and boron trifluoride diethyl ether complex (0.4 g, 5.5 mmol) was gradually added dropwise thereto. The mixture was stirred at room temperature for 6 hours, and then saturated aqueous solution of sodium hydrogencarbonate (15 ml) was added thereto. The mixture was concentrated, and was extracted with ethyl acetate (20 ml). The organic layer was washed twice with water (10 ml), and the solvent was evaporated away under reduced pressure. The concentrated matter was purified by silica gel column chromatography to obtain the title compound as a colorless oil (0.69 g, yield: 65%).

reactant | ethyl (2S,3R)-3-propyl-2-oxiranecarboxylate | 5 mmol, 0.8 g | C(CC)[C@@H]1[C@H](O1)C(=O)OCC | C8H14O3
reactant | sodium hydrogencarbonate | 15 ml | C(O)([O-])=O.[Na+]
reactant | Acetonitrile | 5 ml | C(C)#N | C2H3N
product | ethyl (4S,5S)-2-methyl-4-propyl-4,5-dihydro-1,3-oxazole-5-carboxylate | 0.69 g, yield: 65% | CC=1O[C@@H]([C@@H](N1)CCC)C(=O)OCC | C10H17NO3
